data/rdb19/train.csv
rxn,smiles,ea
5218,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[N:29]([C:30](=[O:31])[H:38])[H:37])([H:35])[H:36])([H:32])([H:33])[H:34]>>[C:1]([H:11])([H:12])([H:13])[H:37].[C:25]([C:26]([C:27]([H:28])=[N:29][C:30](=[O:31])[H:38])([H:35])[H:36])([H:32])([H:33])[H:34].[C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15],89.27254720946075
3862,[C:13]([C:14]([C:15]([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])([H:7])[C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28].[C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9],57.38332827301929
4803,[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[O:5][C:6]([H:16])([H:17])[H:18])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][O:19][H:20]>>[C:1]([C:2]([H:10])[H:11])([H:7])([H:8])[H:9].[C:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])([H:12])[O:19][H:20],73.55185369495302
2056,[C:11]([C:12]([C:13]([H:23])([H:24])[H:25])([C:14]([H:15])[H:16])[C:17](=[O:18])[O:19][H:26])([H:20])([H:21])[H:22].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[C:14]([C:12]([C:11]([H:20])([H:21])[H:22])([C:13]([H:23])([H:24])[H:25])[C:17](=[O:18])[O:19][H:26])([H:15])[H:16])([H:6])[H:7],18.647232883377
4070,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31])([H:26])([H:27])[H:28]>>[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11].[H:13][C:21]([C:20]([H:26])([H:27])[H:28])([C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31],37.39098013902549
3166,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([O:22][C:23](=[O:24])[C:25]([C:26]([H:34])([H:35])[H:36])([C:27]([H:37])([H:38])[H:39])[C:28]([H:29])[H:30])([H:31])([H:32])[H:33]>>[C:1]([C:2]([H:10])([H:11])[C:28]([C:25]([C:23]([O:22][C:21]([H:31])([H:32])[H:33])=[O:24])([C:26]([H:34])([H:35])[H:36])[C:27]([H:37])([H:38])[H:39])([H:29])[H:30])([H:7])([H:8])[H:9].[C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20],59.06450470699929
2626,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20](=[C:21]([c:22]1[c:23]([H:31])[c:24]([H:32])[c:25]([H:33])[c:26]([H:34])[c:27]1[H:35])[H:30])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[C:25]1([H:33])[C:24]([H:32])[C:23]([H:31])=[C:22]([C:21](=[C:20]([H:28])[H:29])[H:30])[C:27]([H:35])=[C:26]1[H:34])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13],19.51987992716022
5322,[C:17]([C:18]([C:19]([H:20])[H:21])([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])([H:28])([H:29])[H:30].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1]([C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])([H:10])[C:19]([C:18]([C:17]([H:28])([H:29])[H:30])([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])([H:20])[H:21],13.4203391734045
797,[C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37],56.22969792957883
3601,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],57.27962653094437
